US08629270B2
Benzyl 3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate
A solution of benzyl N-allyl-N-[(2E)-2-hydroxyiminoethyl]carbamate (24 g, 96.6 mmol) in dichloromethane (338 mL) is treated drop wise over 10 minutes with a 5% w/w aqueous solution of sodium hypochlorite (106.08 mmol, 143.06 mL). The resultant mixture is stirred at room temperature overnight. The reaction is quenched with a 40% aqueous solution of sodium bisulfite (7 g). The organic layer is separated, dried over magnesium sulfate, and concentrated under vacuum. The crude product is purified over silica gel eluting with 5% ethyl acetate in hexanes to give the title compound (18 g, 75%). ES/MS (m/e): 247 (M+H).

reactant | benzyl N-allyl-N-[(2E)-2-hydroxyiminoethyl]carbamate | 96.6 mmol, 24 g | C(C=C)N(C(OCC1=CC=CC=C1)=O)C/C=N/O | C13H16N2O3
reactant | sodium hypochlorite | 106.08 mmol, 143.06 mL | Cl[O-].[Na+]
solvent | dichloromethane | 338 mL | ClCCl | CH2Cl2
product | Benzyl 3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 18 g, 75% | N=1OCC2C1CN(C2)C(=O)OCC2=CC=CC=C2 | C13H14N2O3
